US08604029B2
To a solution of 1-(4-nitrophenyl)-piperazine (0.6 g, 2.89 mmol) in THF (10 mL) was added fufaraldehyde (0.41 g, 4.31 mmol), acetic acid (3 mL) and water (1.5 mL) and the mixture stirred at r.t. for half an hour. Sodium cyanoborohydride (0.27 g, 4.31 mmol) was added and the reaction heated at reflux for four hours. The reaction was cooled and the solvent evaporated. The resulting residue was diluted with water and extracted with dichloromethane. The combined organic layers were washed with saturated sodium bicarbonate and brine solution, dried over sodium sulfate, filtered and concentrated. Purification by column chromatography over silica gel (60-120 mesh) using 5% methanol/chloroform as eluent afforded 1-furan-2-ylmethyl-4-(4-nitrophenyl)-piperazine (0.45 g, 54%) as a yellow solid.

reactant | 1-(4-nitrophenyl)-piperazine | 2.89 mmol, 0.6 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | water | 1.5 mL | O | H2O
reactant | Sodium cyanoborohydride | 4.31 mmol, 0.27 g | C(#N)[BH3-].[Na+]
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-furan-2-ylmethyl-4-(4-nitrophenyl)-piperazine | 0.45 g, 54% | O1C(=CC=C1)CN1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H17N3O3
